US07071220B2
Synthesis of 5-fluoro-N-[2-methanesulfonyl-4-(2-methylthiazol-4-yl)phenyl]-3-methylbenzo[b]thiophene-2-sulfonamide (Compound 71)
Into 4.0 mL of chloroform was dissolved 200 mg of Compound 19, and 194 mg of benzyltrimethylammonium tribromide was added, followed by 1 hour of stirring at room temperature. The reaction was terminated by adding water to the reaction solution and then the solvent was once removed by evaporation. The residue was adjusted to pH 2 to 3 by adding 1 mol/L hydrochloric acid, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and then dried over anhydrous sodium sulfate. The solvent was removed by evaporation under reduced pressure and the resulting residue was washed with methanol to obtain 201 mg of N-(4-bromoacetyl-2-methanesulfonylphenyl)-5-fluoro-3-methylbenzo[b]thiophene-2-sulfonamide as a colorless solid. The thus obtained N-(4-bromoacetyl-2-methanesulfonylphenyl)-5-fluoro-3-methylbenzo[b]thiophene-2-sulfonamide (150 mg) was dissolved into a mixed solution of 1.5 mL of dioxane and 1.5 mL of ethanol, and 53 mg of sodium hydrogen carbonate and 26 mg of thioacetamide were successively added, followed by 2 hours of stirring under heating and refluxing. The reaction was terminated by adding water to the reaction solution and then the solvent was removed by evaporation under reduced pressure. The residue was adjusted to pH 2 to 3 by adding 1 mol/L hydrochloric acid, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and then dried over anhydrous sodium sulfate. The solvent was removed by evaporation under reduced pressure and the resulting residue was purified by silica gel column chromatography to obtain 61 mg of the title compound as light yellow powder.

reactant | N-(4-bromoacetyl-2-methanesulfonylphenyl)-5-fluoro-3-methylbenzo[b]thiophene-2-sulfonamide | 150 mg | BrCC(=O)C1=CC(=C(C=C1)NS(=O)(=O)C1=C(C2=C(S1)C=CC(=C2)F)C)S(=O)(=O)C | C18H15BrFNO5S3
reactant | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
reactant | sodium hydrogen carbonate | 53 mg | C(O)([O-])=O.[Na+]
reactant | thioacetamide | 26 mg | C(C)(=S)N | C2H5NS
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | 5-fluoro-N-[2-methanesulfonyl-4-(2-methylthiazol-4-yl)phenyl]-3-methylbenzo[b]thiophene-2-sulfonamide | 61 mg | FC1=CC2=C(SC(=C2C)S(=O)(=O)NC2=C(C=C(C=C2)C=2N=C(SC2)C)S(=O)(=O)C)C=C1 | C20H17FN2O4S4
